US09427479B2
DMAP (106 g, 0.86 mol) was added to a solution of Boc-L-4-nitro-Phenylalanine (1800 g, 0.58 mol) and Meldrum's acid (92 g, 0.64 mol) in dichloromethane (1.5 L). The resulting solution was cooled at −5° C. under N2 atmosphere, followed by addition of DCC (240 g, 1.16 mol) in dichloromethane (1 L) over 1 h. The mixture was stirred overnight at 0˜5° C. Then the precipitated N, N′-dicyclohexylurea was removed by filtration and the filtrate was washed with 5% aqueous HCl (1 L×3), and brine (1 L×1), and was dried over MgSO4. After removal of MgSO4 by filtration, the organic phase was concentrated to dryness. The residue was triturated with EtOAc/hexane (1:1, 500 mL), and was dried to afford tert-butyl (S)-(1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-3-(4-nitrophenyl)-1-oxopropan-2-yl)carbamate (130.0 g, 51% yield) as a yellow solid.

reactant | Boc-L-4-nitro-Phenylalanine | 0.58 mol, 1800 g | CC(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C14H18N2O6
reactant | Meldrum's acid | 0.64 mol, 92 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | DCC | 1.16 mol, 240 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.86 mol, 106 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | tert-butyl (S)-(1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-3-(4-nitrophenyl)-1-oxopropan-2-yl)carbamate | 130.0 g, 51% yield | CC1(OC(C(C(O1)=O)C([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O)=O)=O)C | C20H24N2O9
